US06632826B1
A solution of 4-benzyl-5-(3-ethoxycarbonyl-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (50.68 g) in pyridine (380 ml) was stirred at 15° C. under an atmosphere of nitrogen during the dropwise addition of methanesulfonyl chloride (18.4 ml). The reaction mixture was then allowed to warm to ambient temperature and stirred for a further 2 hours and evaporated. The residue was dissolved in diethyl ether, washed sequentially with 2M aqueous hydrochloric acid (500 ml and 250 ml), water, 5% aqueous sodium bicarbonate solution, water and saturated aqueous sodium chloride solution, dried (anhydrous magnesium sulfate) and evaporated to afford 4-benzyl-5-(3-ethoxycarbonyl-2-methanesulfonyloxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (64 g) as a pale yellow gum Mass spectrum 500 [M+H]+.

reactant | 4-benzyl-5-(3-ethoxycarbonyl-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 50.68 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC(CC(=O)OCC)O)(C)C | C23H35NO6
reactant | methanesulfonyl chloride | 18.4 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 380 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzyl-5-(3-ethoxycarbonyl-2-methanesulfonyloxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 64 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC(CC(=O)OCC)OS(=O)(=O)C)(C)C | C24H37NO8S
